2132-09-29 05:36:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - A line placed in right radial artery.
   - CT head without contrast obtained.
   Allergies:
   Penicillins
   Rash;
   Last dose of Antibiotics:
   Cefipime - [**2132-9-29**] 04:30 AM
   Levofloxacin - [**2132-9-29**] 04:30 AM
   Infusions:
   Midazolam (Versed) - 11 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-9-29**] 05:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.2
   Tcurrent: 36
C (96.8
   HR: 107 (103 - 114) bpm
   BP: 111/72(86) {111/72(86) - 118/74(89)} mmHg
   RR: 14 (12 - 24) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                     21 mL
                                                                    404 mL
   PO:
             TF:
   IVF:
                                                                     21 mL
                                                                    404 mL
   Blood products:
   Total out:
                                                                    685 mL
                                                                    300 mL
   Urine:
                                                                    685 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -664 mL
                                                                    104 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 60%
   RSBI Deferred: No Spon Resp
   PIP: 27 cmH2O
   Plateau: 22 cmH2O
   SpO2: 98%
   ABG: 7.41/41/66/26/0
   Ve: 7.7 L/min
   PaO2 / FiO2: 110
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Eyes / Conjunctiva: Pupils dilated, pupils: 1-2mm bilaterally, R more
   reactive than left (postsurgical) nonicteric sclera
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Distant), No(t) S3,
   No(t) S4, No(t) Rub, (Murmur: No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Absent), (Left DP pulse: Absent)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: No(t)
   Crackles : , Bronchial: , No(t) Wheezes : , Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese
   Extremities: Right: 1+, Left: 1+, No(t) Cyanosis, No(t) Clubbing,
   bilateral lower extremity erythema and warmth
   Skin:  Warm, Rash: bilateral lower extremity erythema and warmth, No(t)
   Jaundice
   Neurologic: No(t) Follows simple commands, Responds to: Noxious
   stimuli, Movement: No spontaneous movement, Sedated
   Labs / Radiology
   296 K/uL
   13.5 g/dL
   146 mg/dL
   1.3 mg/dL
   26 mEq/L
   4.5 mEq/L
   37 mg/dL
   106 mEq/L
   141 mEq/L
   42.3 %
   10.5 K/uL
        [image002.jpg]
                            [**2132-9-29**]  03:57 AM
                            [**2132-9-29**]  04:36 AM
   WBC
   10.5
   Hct
   42.3
   Plt
   296
   Cr
   1.3
   TCO2
   27
   Glucose
   146
   Other labs: PT / PTT / INR:25.8/36.0/2.5, Ca++:8.3 mg/dL, Mg++:2.4
   mg/dL, PO4:3.6 mg/dL; ABG: 7.43 / 39 / 106 / 27
   Amylase 30, lipase 16; Urine Na <10, creat 50, urea 524
 FEUrea 9.7%
   Head CT
 no hemorrhage or edema, chronic sm vessel disease, unchanged
   since [**2132-5-3**]
   Assessment and Plan
   A/P: 79 yo female with multiple medical problems presents with hypoxia,
   tachypnea, pna by CXR, pyuria, and was intubated.
   .
   # Resp failure: Most likely [**12-22**] to perfusion barrier from pneumonia.
   Other possible etiologies include pulmonary edema, aspiration.
   - ventilation, wean as tolerated
 switch to PS and decrease FiO2,
   increase PEEP if difficult
   - treatment from pna as below
   - diagnosis/treatment for CHF as below
   - vent bundle/precautions
   - radial arterial line for BP monitoring
   .
   # PNA: Right mid zone pna shown on CXR.  Pt has significant health care
   contact and last admission w/in 6 months, increasing her risk for
   resistant organisms.
   - vanc, cefepime, levo (she is PCN allergic) for healthcare associated
   pna, atypicals, and pseudomonas
   - nasal aspirate for flu, droplet precautions
   - legionella urinary antigen
   .
   # Pyuria: UCx pending.  has had pan sensitive proteus and ecoli in
   past.
   - antibiotics as per pna coverage (cefepime and levo should cover)
   - follow UCx
   .
   # Atrial thrombus: Has been mostly therapeutic or supertherapeutic
   recently.  Also has history of mesenteric thrombus and has thrombosed
   anterior division of left internal iliac artery by CT abd today.  This
   is suggestive of an underlying hypercoagulable state and if she has not
   already had one, she should have a hypercoagulable workup.
   - IV heparin (hold coumadin) pending CT head as below and as bridge
   when INR lowers
   - may need long term lovenox
   - discuss with PCP whether she has had hypercoagulable workup at
   another hospital.  If not, Hematology consult and workup for
   thrombophilia.
   - ECHO today
   .
   # AMS: most likely toxic metabolic, but given hypercoagulable history
   and clot present in her atrium, stroke is possible.  Unable to
   completely assess neurologic exam and ED exams do not document
   defecits.
   - CT head for bleed before starting heparin as above
   - definitive study for embolic stoke would be MRI if concerned about
   embolic stroke
   .
   # Renal failure: Resolved, back to baseline < 1.4.  Likely prerenal
   etiology, based on FEUrea and response to IVF.
   .
   # HOCM/diastolic CHF: mild CHF by CXR.  No elevated JVD, though she has
   LE edema.  BNP 7479, mildly elevated.  Previously always >3000 and has
   been up to 11,000.
   - ECHO
   .
   # LE erythema: likely chronic venous stasis changes though cellulitis
   is in the differential and pink color is striking.  Seen by dermatology
   with similar description, thought to be chronic venous stasis.
   - vanc as above
   .
   # Afib: RVR with rates 100-120s.  Jxn'al rhythm documented by EKG as
   well - regular, which has some characteristics of digoxin toxicity,
   however digoxin is not on her med list and is not detected in her
   blood.
   - arterial line for better BP monitoring.
   - metoprolol IV push to see how she responds, then short acting PO if
   good response.
   .
   # Abd pain: CT abd negative. GGT and AP both elevated mildly.  Amylase
   & lipase wnl.   No obvious explanation, but could have had transient
   mesenteric ischemia given her history.
   - bowel regimen
   .
   # HTN: No currently hypertensive and she is infected with sepsis
   (though not currently shock)
   - hold antihypertensives
   .
   # DM: holding NPH, SSI for now as her requirements will likely be
   different from home.
   .
   # Gout: will hold allopurinol for now to reduce any side effects
   .
   # Glaucoma: cont eye drops
   .
   # Chronic low back pain: pain control prn
   .
   # FEN: NPO currently, will start tube feeds and request nutrition
   consult; replete lytes prn
   .
   # Access: radial arterial line, PIV
   .
   # PPx: INR therapeutic, bowel regimen, H2 blocker (holding warfarin
   currently, will start heparin when INR drops)
   .
   # Code: presumed full
   .
   # Dispo: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2132-9-28**] 10:25 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2132-09-29 08:32:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   Tachycardia-Atrial Fibrillation
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   This morning-
   -Head CT--non-contrast with no hemorrhage or edema
   24 Hour Events:
 ARTERIAL LINE - START [**2132-9-29**] 04:00 AM
 SPUTUM CULTURE - At [**2132-9-29**] 05:10 AM
 URINE CULTURE - At [**2132-9-29**] 05:11 AM
   History obtained from [**Hospital 85**] Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Penicillins
   Rash;
   Last dose of Antibiotics:
   Cefipime - [**2132-9-29**] 04:30 AM
   Levofloxacin - [**2132-9-29**] 04:30 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Cardiovascular: Tachycardia
   Nutritional Support: NPO
   Respiratory: Dyspnea, Tachypnea
   Gastrointestinal: Abdominal pain
   Genitourinary: Foley, pyuria
   Heme / Lymph: Coagulopathy
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2132-9-29**] 08:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.2
   Tcurrent: 36
C (96.8
   HR: 112 (103 - 114) bpm
   BP: 120/71(88) {111/71(86) - 122/74(89)} mmHg
   RR: 14 (12 - 24) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                     21 mL
                                                                    672 mL
   PO:
             TF:
   IVF:
                                                                     21 mL
                                                                    672 mL
   Blood products:
   Total out:
                                                                    685 mL
                                                                    340 mL
   Urine:
                                                                    685 mL
                                                                    340 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -664 mL
                                                                    332 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 60%
   RSBI Deferred: No Spon Resp
   PIP: 27 cmH2O
   Plateau: 22 cmH2O
   SpO2: 97%
   ABG: 7.43/39/106/26/1
   Ve: 7.7 L/min
   PaO2 / FiO2: 177
   Physical Examination
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Rhonchorous: )
decreased breath sounds noted
   bilaterally with rare ronchi appreciated
no wheezing noted
   Abdominal: Soft, Bowel sounds present
   Extremities: Right: Trace, Left: Trace, Significant erythema
   Skin:  Ertyhema noted, no warmth
   Neurologic: Responds to: Noxious stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   13.5 g/dL
   296 K/uL
   146 mg/dL
   1.3 mg/dL
   26 mEq/L
   4.5 mEq/L
   37 mg/dL
   106 mEq/L
   141 mEq/L
   42.3 %
   10.5 K/uL
        [image002.jpg]
                            [**2132-9-29**]  03:57 AM
                            [**2132-9-29**]  04:36 AM
                            [**2132-9-29**]  06:03 AM
   WBC
   10.5
   Hct
   42.3
   Plt
   296
   Cr
   1.3
   TCO2
   27
   27
   Glucose
   146
   Other labs: PT / PTT / INR:25.8/36.0/2.5, Alk Phos / T Bili:107/,
   Amylase / Lipase:30/16, Lactic Acid:1.4 mmol/L, Ca++:8.3 mg/dL,
   Mg++:2.4 mg/dL, PO4:3.6 mg/dL
   CXR
Dual lead pacer, OGT and ETT in position, suggestion of left sided
   mid lung zone infiltrate
   Assessment and Plan
   79 yo female admit with tachypnea and hypoxia in the setting of
   significant cardiac disease.  By report patient had mild abdominal pain
   and dyspnea and then to ED where eval showed significant hypoxemia and
   altered mental status.  Patient intubated with tachypnea and with fever
   and right sided infiltrate pneumonia suspected.  CT abdomen did show no
   evidence of intraabdominal pathology.  She was admitted to ICU for
   further care with persistent tachycardia.
 ATRIAL FIBRILLATION (AFIB)--Chronic and significant impact of
   tachycardia with HOCM
   -ASA
   -Pacer in place
   -Will move to better rate control to facilitate
   -Check Dig level
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])-Hypoxemic
   -7.43/39/106
   -Arterial
   -Vanco/Cefepime/Levofloxaxin continued
   -SPutum culture/Influenza aspirate sent/Legionella sent and will follow
   up
   -This may represent a significant hypoxemic insult that is incompletely
   explained by the current findings but pneumonia remains the primary
   possible explanation.  Extrapulmonary shunting is possible but will
   remain a diagnosis of exclusion.
   -Wean FIO2, if unable to do successfully will pursue PEEP increase
   -If PEEP increase fails to trigger improvement in FIO2 requirement will
   have to pursue extrapulmonary shunting
   -ECHO to be completed today
 ALTERED MENTAL STATUS (NOT DELIRIUM)-
   -Coumadin held and heparin in place
   -Head CT is without evidence of bleed at this time.
   -IF unable to awaken and arouse fully will move to MRI to further
   evaluate
   -Atrial Thrombus-
   -Seen on CT abdomen and with known previous thrombotic events and
   chronically on Coumadin with therapeutic INR on admission.  It does
   appear to be a clear lesion seen on CT scan.
   -Will continue with anticoagulation with Heparin IV
   -No clear role for thrombolysis in this case
   -Will have to follow mental status
   -Will have to follow for possible triggers for hypercoagulable state
 IMPAIRED SKIN INTEGRITY
   ICU Care
   Nutrition: Tube feeds
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2132-9-28**] 10:25 PM
   Arterial Line - [**2132-9-29**] 04:00 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2132-09-30 05:16:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -Echo showed severe diastolic failure, atrial thrombi, small aortic
   valve vegetation
   -Reportedly pt. not therapeutic on INR for awhile
   -Pt. tachycardic to 120s-130s and lopressor titrated upward
   -Pt began dropping SBP to 70s, MAPS 60-70, after IV lopressor &
   bolussed 250 cc NS.  Abtout 3 hours later UOP began decreasing, still
   tachycardic with similar BPs & bolussed another 250 cc NS.  Then
   rapidly became hypotensive with cool extremities, PEA arrest, got chest
   compressions then was in Vtach, shocked x1 restored to perfusing rhythm
   with ventricular pacing.  Fem line placed, started levophed then
   neosynephrine added.  2 amps NaHCO3 given plus IVF boluses.  Patient
   hyperventilated on vent.  Lactate and K+ rapidly elevated.
 TRANS ESOPHAGEAL ECHO - At [**2132-9-29**] 02:06 PM
   Q5 min vitals and sedation medication charted in vitals and meds
   section of metavision
   Allergies:
   Penicillins
   Rash;
   Last dose of Antibiotics:
   Cefipime - [**2132-9-29**] 04:30 AM
   Levofloxacin - [**2132-9-29**] 04:30 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2132-9-29**] 02:14 PM
   Fentanyl - [**2132-9-29**] 02:14 PM
   Metoprolol - [**2132-9-30**] 03:54 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-9-30**] 05:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 35.7
C (96.2
   HR: 112 (99 - 129) bpm
   BP: 80/63(68) {78/59(66) - 142/140(154)} mmHg
   RR: 22 (7 - 27) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                  1,612 mL
                                                                    677 mL
   PO:
             TF:
                                                                     58 mL
                                                                    102 mL
   IVF:
                                                                  1,553 mL
                                                                    575 mL
   Blood products:
   Total out:
                                                                  1,080 mL
                                                                     80 mL
   Urine:
                                                                  1,080 mL
                                                                     80 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    532 mL
                                                                    597 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 620 (571 - 620) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI: 45
   PIP: 23 cmH2O
   Plateau: 22 cmH2O
   SpO2: 95%
   ABG: 7.41/32/117/20/-2
   Ve: 13.6 L/min
   PaO2 / FiO2: 234
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   299 K/uL
   14.7 g/dL
   158 mg/dL
   1.5 mg/dL
   20 mEq/L
   5.4 mEq/L
   38 mg/dL
   107 mEq/L
   139 mEq/L
   44.8 %
   12.9 K/uL
        [image002.jpg]
                            [**2132-9-29**]  03:57 AM
                            [**2132-9-29**]  04:36 AM
                            [**2132-9-29**]  06:03 AM
                            [**2132-9-29**]  03:32 PM
                            [**2132-9-30**]  02:07 AM
                            [**2132-9-30**]  02:33 AM
   WBC
   10.5
   12.9
   Hct
   42.3
   44.8
   Plt
   296
   299
   Cr
   1.3
   1.5
   TCO2
   27
   27
   25
   21
   Glucose
   146
   158
   Other labs: PT / PTT / INR:32.7/36.5/3.4, Alk Phos / T Bili:107/,
   Amylase / Lipase:30/16, Lactic Acid:1.9 mmol/L, Ca++:7.9 mg/dL,
   Mg++:2.5 mg/dL, PO4:4.1 mg/dL
   See OMR for full sequence of labs between 2 and 8 am.  Briefly, lactate
   elevated to 7.9; K+ up to 6.7 and now trending downward; 7:50 am ABG:
   7.37 / 23 / 135 / 14   K+ 5.2, Lactate 6.6
   Micro: urine legionella negative, 1^st urine culture
 no growth, 2^nd
   still pending
   Assessment and Plan
   A/P: 79 yo female with multiple medical problems presents with hypoxia,
   tachypnea, pna by CXR, pyuria, and was intubated.
   .
   # s/p cardiac arrest: Cause for arrest unclear, but likely related to
   an ischemic event in the setting of [**Name Prefix (Prefixes) **] [**Last Name (Prefixes) 6440**] or AV vegetation embolizing
   distally given ECHO findings yesterday and Rapidly elevated lactate.
   Picture and timecourse is not consistent with sepsis.  Could have
   mesenteric ischemia or micro thrombi to small vessels throughout.  PE
   is also possible given hypoxia this morning, hypotension, and arrest.
   - Q4H labs & more frequent monitoring of ABGs to evaluate oxygenation
   and acid/base status.
   - CT torso with CTA chest to evaluate for mesenteric ischemia (if
   positive would consider referral to surgery for management and addition
   of flagyl to cover for infection due to bowel microbes) and pulmonary
   embolism
   - CT head to evaluate for hemorrhage and septic emboli
   - Cont. supportive treatment
   - Hold metoprolol
   .
   # Resp failure: Initially, most likely [**12-22**] to perfusion barrier from
   pneumonia.  [**Month (only) 60**] have PE now as well (see above).
   - Decrease respiratory rate to 24 and attempt to keep pH > 7.25; after
   CT scans will try to decrease FiO2.
   - treatment from pna as below
   .
   # PNA: Right mid zone pna shown on CXR.  Pt has significant health care
   contact and last admission w/in 6 months, increasing her risk for
   resistant organisms.  Legionella urinary antigen negative.  Other micro
   studies are still pending.
   - vanc, cefepime, levo (she is PCN allergic) for healthcare associated
   pna, atypicals, and pseudomonas
   - nasal aspirate for flu, droplet precautions
   .
   # Pyuria: UCx negative.  Has had pan sensitive proteus and ecoli in
   past.   Will continue to follow UCx
   .
   # Atrial thrombus: Uncertain to what degree patient has been
   therapeutic on INR recently.  Per OMR records, pt. mostly therapeutic
   or supertherapeutic, though per family, not so much.  Also has history
   of mesenteric thrombus and has thrombosed anterior division of left
   internal iliac artery by CT abd on admission.  Patient received
   warfarin 3 mg last night.
   - hold warfarin d/t supratherapeutic INR.
   - trend INR and restart warfarin when lower or switch to heparin
   depending on information gained in above work-up
   - consider hypercoagulable workup (discuss with PCP)
   - may need long term lovenox
   .
   # AMS: most likely toxic metabolic, but given hypercoagulable history
   and clot present in her atrium, stroke is possible.  Unable to
   completely assess neurologic exam and ED exams do not document
   deficits.
   - recheck CT head for bleed & strokes given cardiac arrest and
   potential for embolism.
   - definitive study for embolic stoke would be MRI
   .
   # Renal failure: Resolved, back to baseline < 1.4.  Likely prerenal
   etiology, based on FEUrea and response to IVF.
   .
   # HOCM/diastolic CHF: mild CHF by CXR.  No elevated JVD, though she has
   LE edema.  BNP 7479, mildly elevated.  Previously always >3000 and has
   been up to 11,000.
   - Small fluid boluses with frequent monitoring to prevent volume
   overload.
   .
   # LE erythema: likely chronic venous stasis changes though cellulitis
   is in the differential and pink color is striking.  Seen by dermatology
   with similar description, thought to be chronic venous stasis.
   - vanc as above
   .
   # Afib: RVR with rates 100-120s.  Jxn'al rhythm documented by EKG as
   well - regular, which has some characteristics of digoxin toxicity,
   however digoxin is not on her med list and is not detected in her
   blood.  Although metoprolol is on her regular home regimen, her heart
   rate decreased little in response to it yesterday.
   - Will hold metoprolol for now given that she is ventricularly paced
   and continue to monitor telemetry.
   - Cont. arterial line for better BP monitoring.
   .
   # Abd pain: CT abd negative. GGT and AP both elevated mildly.  Amylase
   & lipase wnl.   No obvious explanation, but could have had transient
   mesenteric ischemia given her history.
   - repeat CT abd/pelvis as above
   - flagyl if evidence of bowel ischemia & surgical consultation
   - bowel regimen
   .
   # HTN: No currently hypertensive and she is infected with sepsis
   (though not currently shock)
   - hold antihypertensives
   .
   # DM: holding NPH, SSI for now as her requirements will likely be
   different from home.
   .
   # Gout: will hold allopurinol for now to reduce any side effects
   .
   # Glaucoma: cont eye drops
   .
   # Chronic low back pain: pain control prn
   .
   # FEN: NPO currently, will restart tube feeds later today if stable;
   Nutrition consult requested; repleting lytes prn
   .
   # Access: radial arterial line, PIV, femoral line (needs to be removed
   & new central line placed today)
   .
   # PPx: INR therapeutic (holding warfarin currently), bowel regimen, H2
   blocker
   .
   # Code: presumed full; daughter informed of cardiac arrest this morning
   and will be coming later this morning.
   .
   # Dispo: ICU
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2132-9-29**] 06:10 PM 20 mL/hour
   Glycemic Control:
   Lines:
   18 Gauge - [**2132-9-28**] 10:25 PM
   Arterial Line - [**2132-9-29**] 04:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2132-09-30 09:11:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   Congestive Heart Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   History reviewed with family and concern raised for possible time with
   sub-therapeutic coumadin dosing as possible co-contributor to increased
   thrombosis risk
   24 Hour Events:
 TRANS ESOPHAGEAL ECHO - At [**2132-9-29**] 02:06 PM
   Q5 min vitals and sedation medication charted in vitals and meds
   section of metavision
   -[**Name Prefix (Prefixes) **] [**Last Name (Prefixes) **] seen
   -Aortic Vegitation Seen
   -Severe diastolic heart failure seen
   -Rate control with B-blocker attempted and Vancomycin in place for
   possible endocarditis
 CARDIAC ARREST - At [**2132-9-30**] 05:40 AM
   -Patient with persistent tachycardia overnight and Lopresor IV given
   with minimal effect on HR
   -Patient then with evolution of significant hypotension/low urine
   output and evolved significant hypoxemia
   -This was further complicated by lactic acidosis, cool extremities,
   mottled extremities and PEA arrest
   -IVF, Levophed, Neo started--patient to VF and recieved defibrillation
   x1 and returned to paced rhythm
   -CVL placed in femoral vein urgently
 MULTI LUMEN - START [**2132-9-30**] 05:50 AM
   THis morning patient has evolved significant decrease in saturation
   with readings of 50-60% acutely and ABG at the time had PaO2=133
   suggesting possible mis-match of peripheral sat and PaO2--this however
   is with significant hypoxemia given FIO2=1.0
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Penicillins
   Rash;
   Last dose of Antibiotics:
   Cefipime - [**2132-9-29**] 04:30 AM
   Levofloxacin - [**2132-9-29**] 04:30 AM
   Infusions:
   Phenylephrine - 3 mcg/Kg/min
   Norepinephrine - 0.2 mcg/Kg/min
   Other ICU medications:
   Midazolam (Versed) - [**2132-9-29**] 02:14 PM
   Fentanyl - [**2132-9-29**] 02:14 PM
   Metoprolol - [**2132-9-30**] 03:54 AM
   Insulin - Regular - [**2132-9-30**] 06:00 AM
   Dextrose 50% - [**2132-9-30**] 06:00 AM
   Sodium Bicarbonate 8.4% (Amp) - [**2132-9-30**] 06:10 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Cardiovascular: Tachycardia
   Nutritional Support: NPO
   Flowsheet Data as of  [**2132-9-30**] 08:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 35.7
C (96.2
   HR: 71 (71 - 129) bpm
   BP: 131/79(96) {78/59(66) - 142/140(154)} mmHg
   RR: 36 (7 - 36) insp/min
   SpO2: 79%
   Heart rhythm: V Paced
             Total In:
                                                                  1,612 mL
                                                                  3,178 mL
   PO:
             TF:
                                                                     58 mL
                                                                    110 mL
   IVF:
                                                                  1,553 mL
                                                                  2,918 mL
   Blood products:
   Total out:
                                                                  1,080 mL
                                                                    105 mL
   Urine:
                                                                  1,080 mL
                                                                    105 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    532 mL
                                                                  3,073 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 620 (571 - 620) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI: 45
   PIP: 23 cmH2O
   Plateau: 22 cmH2O
   SpO2: 79%
   ABG: 7.35/23/133/9/-10
   Ve: 13.6 L/min
   PaO2 / FiO2: 133
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
Femoral Catheter with
   CVP=30
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Diminished), (Right DP pulse: Not assessed), (Left DP pulse: Not
   assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: but equal bilaterally)
   Abdominal: Soft, Non-tender, Bowel sounds present
patient with minimal
   wincing or grimace with deep palpation.
   Extremities: Patient with cool extremities bilaterally but significant
   decrease in pulse to left LE
doppler able to be obtained in left
   popliteal artery.
   Musculoskeletal: Unable to stand
   Skin:  Not assessed
   Neurologic: Responds to: Noxious stimuli, Movement: Not assessed,
   Sedated, Tone: Not assessed
   Labs / Radiology
   16.0 g/dL
   264 K/uL
   343 mg/dL
   1.8 mg/dL
   9 mEq/L
   5.2 mEq/L
   41 mg/dL
   100 mEq/L
   131 mEq/L
   51.0 %
   12.9 K/uL
        [image002.jpg]
                            [**2132-9-30**]  02:07 AM
                            [**2132-9-30**]  02:33 AM
                            [**2132-9-30**]  05:23 AM
                            [**2132-9-30**]  05:30 AM
                            [**2132-9-30**]  05:35 AM
                            [**2132-9-30**]  05:53 AM
                            [**2132-9-30**]  06:02 AM
                            [**2132-9-30**]  06:21 AM
                            [**2132-9-30**]  07:50 AM
                            [**2132-9-30**]  08:08 AM
   WBC
   12.9
   12.9
   Hct
   44.8
   51.0
   Plt
   299
   264
   Cr
   1.5
   1.8
   TropT
   0.03
   0.04
   TCO2
   21
   14
   15
   12
   18
   14
   13
   Glucose
   158
   159
   343
   Other labs: PT / PTT / INR:36.9/39.1/3.9, CK / CKMB /
   Troponin-T:91//0.04, ALT / AST:460/536, Alk Phos / T Bili:161/1.0,
   Amylase / Lipase:30/16, Lactic Acid:6.6 mmol/L, LDH:1272 IU/L, Ca++:7.8
   mg/dL, Mg++:2.7 mg/dL, PO4:5.3 mg/dL
   Fluid analysis / Other labs: 7.39/23
   K+=7.1 at the time
   7.32/23/169 (SaO2=58% in room)
   Lactate=7.0
   Co=1.1
   MetHgB=0.1
   Imaging: CXR-This AM-->
   Patient with ETT, Pacer, OGT in good position, low lung volumes noted,
   minimal change--in fact some clearing, in pulmonary infiltrates.
   Microbiology: Urine Leg=Negative
   Urine Culture=Pendin
   Assessment and Plan
   79 yo female with severe diastolic heart failure and admit with
   hypoxemic respiratory failure and concern for pneumonia based on
   initial imaging.  Overnight she evolved significant impairment in
   perfusion with acute evolution of lactic acidosis and significant anion
   gap acidosis.  This acute change represented primarily by evolution of
   severe anion Gap acidosis is most concerning for embolic insult perhaps
   from known [**Name Prefix (Prefixes) **] [**Last Name (Prefixes) 6439**] in the setting of anticoagulation.  This
   combined with severe impairment in cardiac function may well be
   contributing to severe impairment in perfusion and acute worsening of
   lactic acidosis.  PEA arrest was likely a combination of
   Acidemia/Hyperkalemia and impaired cardiac function.
   1)Cardiac Arrest
PEA arrest
   -K+ to be corrected and has decreased to 5.2
   -Repeat ECHO to eval for thrombus migration and/or vegetation migration
   if therapeutic plan to be altered by it as good image obtained
   yesterday
   -Will need to stabilze academia with both addressing of the underlying
   insult and maintenance of mild hyperventilation
   -For recurrent PEA arrest would have to consider empiric thrombolysis
   if alternative causes controlled.
   2)Lactic Acidosis
This is concerning for thrombo-embolic insult with
   possible bowel insult or even LE insult given asymmetric pulses in left
   LE.  Will need urgent images to define source with PE possible as well
   given PEA arrest although coumadin was therapeutic
   -CTA now
   -CT chest/abd to eval for acute insult
   -Will need flow study of LLE to evaluate for possible peripheral
   arterial occlusion
   -Continue with pressor support/IVF and will need CVL change
   -INR=3 with Coumadin 3mg given and will utilize heparin
   3)Respiratory Failure
likely secondary to insults above but possibility
   triggered by pneumonia based on initial findings on CXR suggesting an
   infiltrate and is on treatment for hospital acquired pneumonia
   Vanco/Cefepime/Levofloxacin
   -Decrease respiratory rate to 24
   -Wean FIO2 by PaO2
   -Maintain PEEP
   4)Congestive Heart Failure
Diastolic and chronic with acute
   decompensation
   -Will keep HR <100 if at all possible
   -CK and Troponin
   -Bolus as needed for hypotension only
   -If hemodynamics need to be better understood would consider SG
   catheter given complex insult of possible CHF, obstructive shock with
   PE and possible peripheral insult with ischemia distally.
 ATRIAL FIBRILLATION (AFIB)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 IMPAIRED SKIN INTEGRITY
   ICU Care
   Nutrition: Hold TF
s for no
   Glycemic Control:
   Lines:
   18 Gauge - [**2132-9-28**] 10:25 PM
   Arterial Line - [**2132-9-29**] 04:00 AM
   Multi Lumen - [**2132-9-30**] 05:50 AM
Femoral catheter to be replaced
   Prophylaxis:
   DVT: INR=3
   Stress ulcer: H2 Blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 75